US04479962
1-(Benzimidazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol dihydrochloride
A solution of 21.5 g. 2,3-diamino-1-{2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy}-benzene trihydrochloride in 150 ml. formic acid is boiled under reflux for 6 hours. After evaporating the reaction mixture in a vacuum, the residue obtained is taken up in 200 ml. 2N hydrochloric acid, boiled under reflux for 4 hours, mixed with active charcoal and filtered while hot. The filtrate is evaporated to dryness and the residue then recrystallized. There are obtained 3.5 g. (17.4% of theory) of the desired compound: m.p. 128°-131° C.

reactant | 2,3-diamino-1-{2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy}-benzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC=C1N)OCC(CNCCNC1=C(C=CC=C1C)C)O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | charcoal | C | CH4
solvent | formic acid | C(=O)O | CH2O2
product | 1-(Benzimidazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol dihydrochloride | Cl.Cl.N1=CNC2=C1C=CC=C2OCC(CNCCNC2=C(C=CC=C2C)C)O | InChI=1S/C20H26N4O2.2ClH/c1-14-5-3-6-15(2)19(14)22-10-9-21-11-16(25)12-26-18-8-4-7-17-20(18)24-13-23-17;;/h3-8,13,16,21-22,25H,9-12H2,1-2H3,(H,23,24);2*1H
